US06562978B1
4-fluorobenzyl bromide (100 g) and triethyl phosphite (120 ml) were mixed, and the mixture was stirred at 150° C., for 22 hours. The obtained reaction mixture was distilled under reduced pressure (bp 115-120° C./1.5 mmHg) to give diethyl 4-fluorobenzylphosphonate (125 g). To a solution of 4-fluorobenzylphosphonate (60.8 g), 15-Crown-5 (4 ml) in THF (400 ml) was added 60% sodium hydride in mineral oil (9.75 g) under ice cooling with stirring, and the mixture was stirred at the same temperature for 30 minutes. To the mixture was added dropwise a solution of 1-tert-butoxycarbonyl-4-piperidone (42.0 g) in THF (150 ml) under ice cooling, and the mixture was stirred at room temperature for 22 hours. After the addition of water under ice cooling, the mixture was extracted with ethyl acetate, and the organic layer was washed with saturated aqueous solution of sodium hydrogencarbonate, saturated aqueous solution of sodium chloride, successively. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The concentrate was subjected to column chromatography (silica gel 650 g, hexane/ethyl acetate=30/1 to 10/1), and the desired fraction was concentrated under reduced pressure to give 1-tert-butoxycarbonyl-4-(4-fluorobenzylidene)piperidine (47.0 g).

reactant | 4-fluorobenzyl bromide | 100 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | triethyl phosphite | 120 ml | P(OCC)(OCC)OCC | C6H15O3P
product | diethyl 4-fluorobenzylphosphonate | 125 g | FC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C11H16FO3P
